US03972992
Preparation of Morphine Latex Polymer -- General Procedure
3-O-Aminopropylmorphine is reacted with a latex suspension in the presence of 1-cyclohexyl-3-(2-morpholino-ethyl)carbodiimide metho p-toluenesulfonate. The resultant complex is washed by repeated sedimentation of the solid latex particles by centrifugation and resuspension in an appropriate buffer until no free aminopropylmorphine is left in the aqueous phase of the suspension. The aminopropylmorphine is used at a concentration of 1 mg per ml in distilled water. The solution is adjusted to pH 5.0. The latex suspension is a carboxylated styrene butadiene copolymer (Dow Chemical Corp. No. 816), which has been washed and then diluted in water to contain approximately 5% latex solids. The concentration of the carbodiimide used is 1% weight/volume in distilled water. The reaction mixture is comprised of the following ratio of reactants: 1 volume of 1% carbodiimide, one volume of aminopropylmorphine and 6 volumes of latex polymer suspension. The reaction is allowed to proceed at room temperature overnight for 16 hrs. under continuous agitation. The solid polymer complex is then sedimented by centrifugation, washed with water and resuspended in 0.1 M tris saline buffer, pH 7.3 to a final concentration of 80 mg solids/ml.

reactant | 3-(3-Aminopropoxy)-7,8-didehydro-4,5α-epoxy-17-methylmorphinan-6 α-ol | NCCCOC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C20H26N2O3
reactant | 1-cyclohexyl-3-(2-morpholino-ethyl)carbodiimide | C1(CCCCC1)N=C=NCCN1CCOCC1 | C13H23N3O
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | Morphine | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
